US07750034B2
Step A: tert-Butyl 3-(acetylamino)-4-hydroxypyrrolidine-1-carboxylate
To a stirred solution of tert-butyl trans-3-amino-4-hydroxypyrrolidine-1-carboxylate (500 mg, the compound of Step A, Intermediate 15), in dichloromethane (20 mL) at 0° C. was added acetic anhydride (0.24 mL) and stirring continued for 1 h. The reaction mixture was quenched with saturated sodium bicarbonate (40 mL), extracted with dichlomethane (4×20 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to yield the title compound which was used in the next step without further purification.

reactant | tert-butyl trans-3-amino-4-hydroxypyrrolidine-1-carboxylate | N[C@@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C | C9H18N2O3
reactant | acetic anhydride | 0.24 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-Butyl 3-(acetylamino)-4-hydroxypyrrolidine-1-carboxylate | C(C)(=O)NC1CN(CC1O)C(=O)OC(C)(C)C | C11H20N2O4
